datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(CC)[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"C(C([O-:21])CC)(C(O[C:20](=[O:10])OC)C)C>>C1(C(O[C:20]([O-:10])([O:21]C1CC)OC)C)C 21=20;20,10=10"
"[H][O:10]C(CC)C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH]([H])[O]1 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CC)CC)CCCCCC.[O-:21]CC>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)CC)CCCCCC 21=20;20,10=10"
"[H][NH:10]C(C)C([H])[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S]C(CC)C([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(CC)C([H])[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CCCCCC)C>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CCCCCC)[O-:10])C 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[S]CC.[Cl-]>>[Cl-].CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[S]CC 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[O]C(C)C([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O]C([H])C([H])[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O]C([H])C([H])[O]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CCCCCC.[O-:21]CC 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21]C)([O]CC)[O]C.[Cl-]>>[Cl-].C[NH:10][H].C[NH+:21]=[C:20]([O]CC)[O]C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CCCCCC)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OC1=CC=CC=C1)[H])CCCCCC>>C(C([O-:21])C)(C(O[C:20](=[O:10])OC1=CC=CC=C1)[H])CCCCCC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])(O[H])[O:21]C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])O[H])CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)[H])CC>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[NH:10][H].[H][NH+:21]=[C:20]([NH]C)[NH]CC.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21][H])([NH]C)[NH]CC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[O-:10]C(CC)C(O)C([C:20](C)=[O:21])O>>[O-:21][C:20]1(C)[O:10]C(CC)C(O)C1O 10=20;20,21=21"
"[H][O:10]C(CC)C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C(C)C([H])C([H])C(CCC)[OH+:10]1>>[OH:10]C(CCC)C([H])C([H])C(C)[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C)CC>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CC.[O-:21]CC 10=20;20,21=21"
"[O-:10]C(CCC)C([H])C([C:20](C)=[O:21])C>>[O-:21][C:20]1(C)[O:10]C(CCC)C([H])C1C 10=20;20,21=21"
"[O:10]([Na])C(C)C([H])C([C:20]([H])=[O:21])O>>[O-:21][C:20]1([H])[O+:10]([Na])C(C)C([H])C1O 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[H][O:10]C(C)C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])CCCCCC)CC>>CN([C:20]1(OC(C(C([O:21]1)[H])[H])CCCCCC)[O-:10])CC 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CCCCCC>>CCC1C(O[C:20](=[O:10])N1CCCCCC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)C1=CC=CC=C1)C1=CC=CC=C1>>CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
